US07074800B1
A suspension of 7-(3-bromopropoxy)-6-methoxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one (36.7 g, 86 mmol) in 1-methylpiperazine (370 ml) was stirred at 100° C. for 90 minutes. After removal of the volatiles under vacuum, the residue was partitioned between methylene chloride and aqueous ammonium chloride. The organic layer was separated, washed with water, brine, dried (MgSO4) and evaporated. The solid was triturated with ether, filtered, washed with ether and dried under vacuum to give 7-(3-(4-methylpiperazin-1-yl)propoxy)-6-methoxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one (31.9 gr, 83%).

reactant | 7-(3-bromopropoxy)-6-methoxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one | 86 mmol, 36.7 g | BrCCCOC1=C(C=C2C(N(C=NC2=C1)COC(C(C)(C)C)=O)=O)OC | C18H23BrN2O5
reactant | 1-methylpiperazine | 370 ml | CN1CCNCC1 | C5H12N2
product | 7-(3-(4-methylpiperazin-1-yl)propoxy)-6-methoxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one | 31.9 gr, 83% | CN1CCN(CC1)CCCOC1=C(C=C2C(N(C=NC2=C1)COC(C(C)(C)C)=O)=O)OC | C23H34N4O5
